US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-[methyl(piperidin-4-yl)amino]quinoxaline-6-carboxylate (100 mg, 0.25 mmol) in N,N-dimethylformamide (30 mL) was added potassium carbonate (157.6 mg, 1.14 mmol) and CH3CH2I (71.32 mg, 0.46 mmol), and the reaction mixture was stirred overnight at room temperature. The reaction mixture was then diluted with water (200 mL) and extracted with dichloromethane (4×50 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (1% methanol in dichloromethane) to afford methyl 3-[(1-ethylpiperidin-4-yl)(methyl)amino]-2-(4-fluorophenyl)-1,4-dihydroquinoxaline-6-carboxylate as light yellow oil (53 mg, 46%).

reactant | methyl 2-(4-fluorophenyl)-3-[methyl(piperidin-4-yl)amino]quinoxaline-6-carboxylate | 0.25 mmol, 100 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C1CCNCC1)C)C(=O)OC | C22H23FN4O2
reactant | potassium carbonate | 1.14 mmol, 157.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CH3CH2I | 0.46 mmol, 71.32 mg | CCI | C2H5I
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | methyl 3-[(1-ethylpiperidin-4-yl)(methyl)amino]-2-(4-fluorophenyl)-1,4-dihydroquinoxaline-6-carboxylate | 53 mg, 46% | C(C)N1CCC(CC1)N(C1=C(NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C24H29FN4O2
